.SUBCKT LT1207     3 2 7 4 6 8
X_LT1207 3 2 7 4 6 8 LT1206
** nested subcircuit: LT1206
.SUBCKT LT1206     3 2 7 4 6 8
*
Q2A 4 3 10 QPI 
Q3A 11 10 200 QNI
Q4A 11 11 7 QPI
Q5A 9 11A 7 QPI 0.55
Q6A 13 11A 7 QPI
RBC 11 11A 60 
Q7A 4 9 12 QPI
Q8A 12 12 13 QPI
Q9A 7  13 14 QNI
Q10A 4 9 14  QPI
Q11A 7 15 16 QNI 24
RSCA 16 6 1.2
RBA 14 15 50
IBA 7 10 DC 750U
ROA 7 10 73K
DIA 10 7 DCC 2
*
Q2B 7 3 110 QNI 
Q3B 111 110 200 QPI
Q4B 111 111 4 QNI
Q5B 9 111B 4 QNI 0.55
Q6B 113 111B 4 QNI
RBD 111 111B 60 
Q7B 7 9 112 QNI
Q8B 112 112 113 QNI 
Q9B 4 113 114 QPI 
Q10B 7 9 114  QNI 
Q11B 4 115 116 QPI 24
RSCB 6 116  1.2
RBB 114 115 50
IBB 110 4 DC 750U
ROB 110 4 73K
DIB 4 110 DCC 2
*
CM1 7 11 70PF
CM2 111 4 70PF
CM3 9 0 2PF
CM4 9 18 8PF
*
RIB 7 11 75K
RC 2 200 10
R9 9 0 250K
R10 18 8 500
R11 8 17 100
D1 9 6 DCC
D2 6 9 DCC
D3 9 7 DCC 1.4
D4 4 9 DCC 1.4
*
EC 17 0 9 0 1
*
.MODEL DC D
.MODEL DCC D CJO=3PF VJ=0.62 M=0.44 
*
.MODEL QNI NPN BF=150 TF=400P
.MODEL QPI PNP BF=150 TF=400P
*
.ENDS LT1206
** end nested subcircuit: LT1206
.ENDS LT1207
