.SUBCKT LT1210     3 2 7 4 6 8
*
Q2A 4 3A 10 QPI 
Q3A 11 10 200 QNI
Q4A 11 11 7 QPI
Q5A 9 11A 7 QPI 0.55
Q6A 13 11A 7 QPI
RBC 11 11A 60 
Q7A 4 9 12 QPI
Q8A 12 12 13 QPI
Q9A 7  13 14 QNI  2
Q10A 4 9 14  QPI  2
Q11A 7 15 16 QNI 48
RSCA 16 6A .3            
RBA 14 15 12       
IBA 7 10 DC 750U
ROA 7 10 73K
DIA 10 7 DCC 2
*
Q2B 7 3A 110 QNI 
Q3B 111 110 200 QPI
Q4B 111 111 4 QNI
Q5B 9 111B 4 QNI 0.55
Q6B 113 111B 4 QNI
RBD 111 111B 60 
Q7B 7 9 112 QNI
Q8B 112 112 113 QNI 
Q9B 4 113 114 QPI 2
Q10B 7 9 114  QNI 2
Q11B 4 115 116 QPI 48
RSCB 6A 116  .3       
RBB 114 115 12      
IBB 110 4 DC 750U
ROB 110 4 73K
DIB 4 110 DCC 2
*
CM1 7 11 100PF
CM2 111 4 100PF
CM3 9 0 2PF
CM4 9 18 8PF
*
RIB 7 11 75K
RC 2 200 10
R9 9 0 250K
R10 18 8 500
R11 8 17 100
D1 9 6A DCC
D2 6A 9 DCC
D3 9 7 DCC 1.4
D4 4 9 DCC 1.4
*
EC 17 0 9 0 1
*
LINP  3 3A 5N
LOUT  6A 6 5N
KIO LINP LOUT .7
*
.MODEL DC D
.MODEL DCC D CJO=3PF VJ=0.62 M=0.44 
*
.MODEL QNI NPN BF=150 TF=400P 
.MODEL QPI PNP BF=150 TF=400P 
*
.ENDS LT1210
