.SUBCKT LT1214     3 2 7 4 6 
* INPUT
RC1 4  80 1.895E+02
RC2 4  90 1.895E+02
Q1  80 102 10 QM1 
Q2  90 103 11 QM2 
RB1  2   102 1.000E+02
RB2  3   103 1.000E+02
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4   4.000E-01
C1  80 90 2.142E-11
RE1 10 12 -13.28056335449219 
RE2 11 12 -13.28056335449219 
IEE 7  12 2.552E-04
RE  12 0  7.837E+05
CE  12 0  1.579E-12
DCMR 12 112 DM2
VCMR 7 112 1.4
* INTERMEDIATE 
GCM 0  8  12 0  2.968E-08
GA  8  0  80 90 5.278E-03
R2  8  0  1.000E+05
C2  1  8  3.000E-11
GB  1  0  8  0  1.876E+03
* OUTPUT 
RO1 1  110 5.000E+00
RO2A 1  0  15.000E+00
RO2B 6  110 23.000E+00
EC  17 0  110 0  1   
D1  1  17 DM1 
D2  17 1  DM1 
D3  110 13 DM2 
D4  14 110 DM2 
D5  6  110 DM2 
D6  110 6  DM2 
VC  7  13 1.465E+00
VE  14 4  8.262E-01
IP  7  4  2.445E-03
DSUB 4  7  DM2 
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.244E+03)
.MODEL QM2 PNP (IS=8.031E-16 BF=1.308E+03)
.MODEL DM1 D   (IS=3.020E-01)
.MODEL DM2 D   (IS=8.000E-16 BV=3.9600E+01)
.ENDS LT1214
